US03932641
2-Phenyl-2-(2-pyridyl)thioacetamide (1.14 g.) is suspended in 20 ml. of methanol. To the suspension is added 0.49 ml. of morpholine and 0.45 ml. of formalin. The mixture is heated on a steam bath until all of the materials are dissolved. The solution is then cooled and hexane is added. Concentrating to dryness and recrystallizing the residue from isopropanol gives N-morpholinomethyl-2-phenyl-2-(2-pyridyl)thioacetamide, m.p. 128°-130°C.

reactant | 2-Phenyl-2-(2-pyridyl)thioacetamide | 1.14 g | C1(=CC=CC=C1)C(C(=S)N)C1=NC=CC=C1 | C13H12N2S
reactant | methanol | CO | CH4O
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | formalin | C=O | CH2O
solvent | hexane | CCCCCC | C6H14
product | N-morpholinomethyl-2-phenyl-2-(2-pyridyl)thioacetamide | O1CCN(CC1)CNC(C(C1=NC=CC=C1)C1=CC=CC=C1)=S | C18H21N3OS
